US07947703B2
1. Preparation of 2-Bromo-ethyl-phenanthridinium bromide (2)
Phenanthridine (5.44 g; 30.4 mmol) was dissolved in 1,2-Dibromoethane (114.2 g; 52 ml; 608 mmol) and stirred at 110° C. for three days. During that time, a white precipitate was formed and was filtered off every 12 hours. After each filtration, the precipitate was rinsed with an additional 5 ml of 1,2-Dibromoethane and the mother liquor was stirred at 90° C. until the next filtration. The reaction was complete after ca. three days when no more precipitate formed. The filtrates were combined and washed thoroughly with ether and with ethyl acetate to give 2 (7.92 g; 21.6 mmol) as a beige powder in a 95% yield; mp: 234-235° C. (dec.); 1H NMR (D2O, 400 MHz): δ 9.81 (s, 1H), 8.72 (d, 1H, J=7.2 Hz), 8.63 (d, 1H, J=7.2 Hz), 8.37 (d, 1H, J=7.2 Hz), 8.26 (d, 1H, J=7.2 Hz), 8.18 (t, 1H, J=7.2 Hz), 7.98 (t, 1H, J=7.2 Hz), 7.90 (m, 2H), 5.37 (t, 2H, J=5.8 Hz), 4.05 (t, 2H, J=5.8 Hz); 13C NMR (D2O, 100 MHz): δ 155.27 (CH), 139.03 (CH), 135.59 (C), 133.18 (CH), 132.78 (C), 132.58 (CH), 130.85 (CH), 130.72 (CH), 126.57 (C), 125.13 (CH), 123.32 (C), 123.00 (CH), 118.91 (CH), 58.87 (CH2), 29.41 (CH2); IR (KBr, cm−1): 2947(w), 1620(m), 763(s), 717(m); MS (ES): 288.1 (M−Br) (100), 206.2 (8); Anal. Calcd for C15H13NBr2: C, 49.32; H, 3.59; N, 3.84. Found: C, 49.15; H, 3.48; N, 3.76.

reactant | Phenanthridine | 30.4 mmol, 5.44 g | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 1,2-Dibromoethane | 608 mmol, 52 ml, 114.2 g | BrCCBr | C2H4Br2
reactant | KBr | [K+].[Br-]
product | 2-Bromo-ethyl-phenanthridinium bromide | 95% yield | [Br-].BrCCC1=CC=CC2=[NH+]C=C3C=CC=CC3=C12 | InChI=1S/C15H12BrN.BrH/c16-9-8-11-5-3-7-14-15(11)13-6-2-1-4-12(13)10-17-14;/h1-7,10H,8-9H2;1H
